* tb_isf_known_answer -- synthetic oscillator with a CLOSED-FORM ISF
* record 20260926-071150-7a02483   corner isf_fastamp
*
* GENERATED FILE. The committed source is
* sim/phase-noise/testbench/tb_isf_known_answer.spice.tmpl; every @@TOKEN@@
* below is substituted by sim/phase-noise/run_method_check.sh. A copy of the
* substituted deck is frozen per case under
* sim/phase-noise/netlist-snapshots/<record-id>/, per sim/README.md rule 3.
*
* WHY THIS DECK EXISTS
* --------------------
* The measured phase-noise number in this experiment is produced by an
* impulse-response measurement of the impulse sensitivity function, reduced by
* sim/lib.sh's pn_crossings / pn_isf_steps / pn_gamma_stats / pn_l_dbc. A
* broken ISF extractor does not announce itself: it produces a perfectly
* plausible L(df) that is simply wrong, which is precisely the failure
* CLAUDE.md's "numbers without methods are not results" rule exists to catch.
* This deck is an oscillator whose ISF is known in CLOSED FORM, so the
* extractor can be measured against algebra instead of trusted.
*
* THE CLOSED FORM
* ---------------
* An ideal parallel LC resonator oscillating as v(t) = A cos(theta) has state
* (v, i_L/(w0*C)) = A*(cos theta, sin theta): a circle in the normalised state
* plane. Injecting charge dq onto the capacitor displaces the state purely
* along the v axis by dv = dq/C, which is
*   * purely RADIAL at theta = 0, pi        -> pure amplitude change, no phase
*     shift; and
*   * purely TANGENTIAL at theta = +-pi/2   -> pure phase shift.
* To first order the excess phase step is
*
*     d(phi) = -(dq / (C*A)) * sin(theta).
*
* The extractor measures phase from a RISING crossing of the trace's own
* window mean, i.e. phi = 0 at theta = -pi/2, so theta = phi - pi/2 and
*
*     Gq(phi) = d(phi)/dq = cos(phi) / (C*A)   [rad/C]      <- the known answer
*     Gq_rms  = 1 / (sqrt(2) * C * A)
*
* Both are checked: the SHAPE at every sampled phase (including the two zero
* crossings of the ISF, where a purely-amplitude perturbation must produce no
* phase shift at all -- the falsification case for this deck) and the scalar
* Gq_rms the phase-noise kernel actually consumes.
*
* TWO CASES, BECAUSE ONE OF THEM IS TOO EASY
*   isf_fastamp = isf_lossless
*     R_LOSS ~ infinite, no active element. The closed form above is EXACT:
*     there is no amplitude relaxation and no harmonic content, so the
*     tolerance is set only by the extractor's own discretisation error. It
*     validates the arithmetic.
*     It is also, deliberately, not representative: a lossless resonator has
*     no limit cycle, so an impulse's amplitude component never decays and the
*     plateau-extraction logic is never exercised.
*   isf_fastamp = isf_limitcycle
*     The same tank with a real loss conductance G = 1/R_LOSS and a cubic
*     negative-conductance element  I = -Gn*v + Bn*v^3  across it. This is a
*     genuine limit cycle: amplitude perturbations DECAY, exactly as they do in
*     design/vco.sch, so pn_isf_steps' "measure the plateau over the last
*     fraction of the inter-impulse interval" logic is under test. Its
*     describing-function amplitude is A = sqrt((Gn - G)/(0.75*Bn)) and its
*     ISF is the closed form above to O(eps), eps = (Gn-G)/(w0*C) -- which is
*     why this case carries a LOOSER, DERIVED tolerance than the lossless one
*     rather than the same one.
*
* The tank also carries a real conductance in the limit-cycle case so that the
* SAME deck can be re-used for the end-to-end kernel check: `noise` over it
* gives the port's equivalent noise current sqrt(4kTG), and the closed-form
* Leeson kernel for this tank is kTG/(C^2 A^2 dw^2), which pn_l_dbc must
* reproduce from the measured Gq_rms. See run_method_check.sh.

.param ct = 1e-12
.param lt = 1e-9

L1 TANK 0 {lt}
C1 TANK 0 {ct}
RLOSS TANK 0 1e4

* Negative-conductance element. In the lossless case 4.1e-3 and 5.3333333333e-03 are
* both 0, so this source is identically zero and the tank is a bare LC; it is
* left in the deck rather than conditionally omitted so that both cases have
* the same node set and the same matrix structure.
BNEG TANK 0 I = -1*4.1e-3*V(TANK) + 5.3333333333e-03*V(TANK)*V(TANK)*V(TANK)

* The impulse train. A symmetric triangle of half-width 2e-12 s and peak
* 5.0000000000e-03 A injects exactly q = amp*hw coulombs, and its centroid -- the
* time the extractor treats as the impulse instant -- is the triangle's apex.
* The REFERENCE run uses this same PWL with 5.0000000000e-03 = 0, so both runs carry
* an identical breakpoint set and the solver takes identical timesteps until
* the first non-zero impulse: the pre-impulse crossing-offset residual is then
* an exact null test of the whole comparison, and it is recorded as this
* method's noise floor.
IIMP 0 TANK PWL(0 0 3.971835306400e-09 0 3.973835306400e-09 5.0000000000e-03 3.975835306400e-09 0 5.180543545400e-09 0 5.182543545400e-09 5.0000000000e-03 5.184543545400e-09 0 6.389251784400e-09 0 6.391251784400e-09 5.0000000000e-03 6.393251784400e-09 0 7.597960023400e-09 0 7.599960023400e-09 5.0000000000e-03 7.601960023400e-09 0 8.806668262400e-09 0 8.808668262400e-09 5.0000000000e-03 8.810668262400e-09 0 1.001537650140e-08 0 1.001737650140e-08 5.0000000000e-03 1.001937650140e-08 0 1.122408474040e-08 0 1.122608474040e-08 5.0000000000e-03 1.122808474040e-08 0 1.243279297940e-08 0 1.243479297940e-08 5.0000000000e-03 1.243679297940e-08 0 1.364150121840e-08 0 1.364350121840e-08 5.0000000000e-03 1.364550121840e-08 0 1.485020945740e-08 0 1.485220945740e-08 5.0000000000e-03 1.485420945740e-08 0 1.605891769640e-08 0 1.606091769640e-08 5.0000000000e-03 1.606291769640e-08 0 1.726762593540e-08 0 1.726962593540e-08 5.0000000000e-03 1.727162593540e-08 0)

* AC-only probe for the port-noise half of the kernel. `dc 0` means it is
* invisible to the transient above (and its AC value is only read by `noise`),
* so the SAME deck supplies the measured ISF and the measured port noise that
* the end-to-end kernel check combines. Running them on one deck rather than
* two is deliberate: it removes any possibility that the ISF and the noise
* were taken on subtly different networks.
IPROBE TANK 0 dc 0 ac 1

* Sitting the initial condition on the limit-cycle amplitude means there is no
* startup transient to discard in the limit-cycle case, and (with i_L = 0) it
* puts t = 0 exactly at a cosine peak in both cases.
.ic v(TANK)=1.0

.control
tran 0.5p 1.8478334174e-08 0 0.5p uic
let tankv = v(TANK)
wrdata mc_isf_fastamp_pert_tank tankv
* Port noise at the SAME node the impulses were injected into. At an
* oscillator's DC operating point the small-signal admittance has a negative
* real part, so Z_port is finite but not passive; the input-referred ratio is
* still exactly the Norton noise current, because the only noise source in
* this deck is RLOSS (the behavioural negative conductance BNEG is noiseless).
* The closed form is therefore sqrt(4kT/RLOSS), independent of GNEG.
noise v(TANK) IPROBE lin 3 4.529629e+09 5.536213e+09
setplot noise1
print inoise_spectrum
.endc
.end
